### PR TITLE
feat: Add nthRoot and reformulate some conjectures in terms of this

### PR DESCRIPTION
**Pull request by Paul-Lez**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/830.lean [hunk 1]
```diff
@@ -74,7 +74,7 @@ If $A(x)$ counts the number of amicable $1\leq a\leq b\leq x$ then one can show
 $A(x) \leq x \exp(-(\log x)^{1/3})$.
 -/
 @[category research solved, AMS 11]
-theorem erdos_830.variants.pomerance : ∀ᶠ x in atTop, A x ≤ x * rexp (- x.log ^ (1 / 3 : ℝ)) := by
+theorem erdos_830.variants.pomerance : ∀ᶠ x in atTop, A x ≤ x * rexp (- x.log.nthRoot 3) := by
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/830.lean]: I think the dot notation here is a bit much:
```suggestion
theorem erdos_830.variants.pomerance : ∀ᶠ x in atTop, A x ≤ x * rexp (- Real.nthRoot 3 x.log) := by
```
